US09351955B2
4,4,4-Trichloro-3-oxo-butyric acid ethyl ester (Int 8, 1 eq) and H2NNH2.HCl (1.1 eq) are mixed in EtOH. The resulting mixture is refluxed overnight. The mixture is then evaporated and the obtained crude is purified by chromatography to give Int 9 and 5-ethoxy-2H-pyrazole-3-carboxylic acid ethyl ester (Int 10).

reactant | 4,4,4-Trichloro-3-oxo-butyric acid ethyl ester | 1 eq | C(C)OC(CC(C(Cl)(Cl)Cl)=O)=O | C6H7Cl3O3
reactant | H2NNH2.HCl | 1.1 eq | NN.Cl
reactant | EtOH | CCO | C2H6O
product | 5-ethoxy-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C(C1)OCC | C8H12N2O3
